US04640913
3-(Hexadecyloxy)-2-(benzyloxy)-1-propanol
To a suspension of about 14.26 g of washed about 50% sodium hydride in about 500 ml of dimethylformamide was added about 49.2 g of 2-(benzyloxy)-1,3-propanediol over about 20 minutes. The mixture was stirred for about 40 minutes, then cooled to about 0° C. and about 95.13 g of hexadecyl iodide were added. After standing about 10 minutes, the mixture was stirred at room temperature for about 3 hours, then filtered through celite and diluted with about 1000 ml of water. This mixture was extracted with petroleum ether. The ether extract was dried and the solvent removed giving an oil. This oil was chromatographed on a column of florisil, eluting first with petroleum ether and then successively with about 5% and about 10% ether in petroleum ether to elute the product, giving about 28.8 g of the desired title compound as a light yellow oil.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-(benzyloxy)-1,3-propanediol | about 49.2 g | C(C1=CC=CC=C1)OC(CO)CO | C10H14O3
reactant | hexadecyl iodide | about 95.13 g | C(CCCCCCCCCCCCCCC)I | C16H33I
solvent | dimethylformamide | about 500 ml | CN(C=O)C | C3H7NO
product | 3-(Hexadecyloxy)-2-(benzyloxy)-1-propanol | about 28.8 g | C(CCCCCCCCCCCCCCC)OCC(CO)OCC1=CC=CC=C1 | C26H46O3
